*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-103_freq port1 port2 PARAMS: Cpar=5.88pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=725
+ R2=0.105
+ C= {Cpar}
+ K1=0.000747
+ K2=11.4
+ K3= {Ind}
+ K4=0.0823
+ K5=0.00000986
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2462.15618
.ends DO3340P-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-103_imp port1 port2 PARAMS: Cpar=5.62pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=725
+ R2=0.105
+ C= {Cpar}
+ K1=0.000747
+ K2=11.4
+ K3= {Ind}
+ K4=0.0823
+ K5=0.00000986
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2462.15618
.ends DO3340P-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-153_freq port1 port2 PARAMS: Cpar=5.73pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=198
+ R2=0.105
+ C= {Cpar}
+ K1=0.000747
+ K2=11.4
+ K3= {Ind}
+ K4=0.115
+ K5=0.00000986
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9979.49148
.ends DO3340P-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-153_imp port1 port2 PARAMS: Cpar=5.50pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=198
+ R2=0.105
+ C= {Cpar}
+ K1=0.000747
+ K2=11.4
+ K3= {Ind}
+ K4=0.115
+ K5=0.00000986
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9979.49148
.ends DO3340P-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-223_freq port1 port2 PARAMS: Cpar=7.65pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=176
+ R2=0.81
+ C= {Cpar}
+ K1=0.000997
+ K2=10.7
+ K3= {Ind}
+ K4=0.23
+ K5=0.00000986
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10916.7345
.ends DO3340P-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-223_imp port1 port2 PARAMS: Cpar=7.27pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=176
+ R2=0.81
+ C= {Cpar}
+ K1=0.000997
+ K2=10.7
+ K3= {Ind}
+ K4=0.23
+ K5=0.00000986
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10916.7345
.ends DO3340P-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-7MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-333_freq port1 port2 PARAMS: Cpar=7.15pF Ind=33uH
X1 port1 port2 Model1A PARAMS:
+ R1=108
+ R2=0.093
+ C= {Cpar}
+ K1=0.00185
+ K2=33.4
+ K3= {Ind}
+ K4=0.461
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=28139.5958
.ends DO3340P-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-7MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-333_imp port1 port2 PARAMS: Cpar=6.69pF Ind=33uH
X1 port1 port2 Model1D PARAMS:
+ R1=108
+ R2=0.093
+ C= {Cpar}
+ K1=0.00185
+ K2=33.4
+ K3= {Ind}
+ K4=0.461
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=28139.5958
.ends DO3340P-333_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-6MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-473_freq port1 port2 PARAMS: Cpar=7.35pF Ind=47uH
X1 port1 port2 Model1A PARAMS:
+ R1=73
+ R2=0.184
+ C= {Cpar}
+ K1=0.00271
+ K2=29.9
+ K3= {Ind}
+ K4=0.793
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=40133.8655
.ends DO3340P-473_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-6MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-473_imp port1 port2 PARAMS: Cpar=6.80pF Ind=47uH
X1 port1 port2 Model1D PARAMS:
+ R1=73
+ R2=0.184
+ C= {Cpar}
+ K1=0.00271
+ K2=29.9
+ K3= {Ind}
+ K4=0.793
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=40133.8655
.ends DO3340P-473_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-683_freq port1 port2 PARAMS: Cpar=7.4pF Ind=68uH
X1 port1 port2 Model1A PARAMS:
+ R1=93.6
+ R2=0.189
+ C= {Cpar}
+ K1=0.00543
+ K2=60.5
+ K3= {Ind}
+ K4=0.82
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=53941.2223
.ends DO3340P-683_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-5MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-683_imp port1 port2 PARAMS: Cpar=7.02pF Ind=68uH
X1 port1 port2 Model1D PARAMS:
+ R1=93.6
+ R2=0.189
+ C= {Cpar}
+ K1=0.00543
+ K2=60.5
+ K3= {Ind}
+ K4=0.82
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=53941.2223
.ends DO3340P-683_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-4MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-104_freq port1 port2 PARAMS: Cpar=7.8pF Ind=100uH
X1 port1 port2 Model1A PARAMS:
+ R1=52.6
+ R2=0.001
+ C= {Cpar}
+ K1=0.00599
+ K2=47.3
+ K3= {Ind}
+ K4=0.82
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=70479.5658
.ends DO3340P-104_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-4MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-104_imp port1 port2 PARAMS: Cpar=7.54pF Ind=100uH
X1 port1 port2 Model1D PARAMS:
+ R1=52.6
+ R2=0.001
+ C= {Cpar}
+ K1=0.00599
+ K2=47.3
+ K3= {Ind}
+ K4=0.82
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=70479.5658
.ends DO3340P-104_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-3MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-154_freq port1 port2 PARAMS: Cpar=7.8pF Ind=150uH
X1 port1 port2 Model1A PARAMS:
+ R1=13.1
+ R2=0.001
+ C= {Cpar}
+ K1=0.00607
+ K2=54.3
+ K3= {Ind}
+ K4=1.59
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=101244.295
.ends DO3340P-154_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-3MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-154_imp port1 port2 PARAMS: Cpar=7.48pF Ind=150uH
X1 port1 port2 Model1D PARAMS:
+ R1=13.1
+ R2=0.001
+ C= {Cpar}
+ K1=0.00607
+ K2=54.3
+ K3= {Ind}
+ K4=1.59
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=101244.295
.ends DO3340P-154_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-2.5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-224_freq port1 port2 PARAMS: Cpar=8.18pF Ind=220uH
X1 port1 port2 Model1A PARAMS:
+ R1=1
+ R2=0.001
+ C= {Cpar}
+ K1=0.0126
+ K2=72.3
+ K3= {Ind}
+ K4=3.9
+ K5=0.0000102
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=124210.063
.ends DO3340P-224_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-2.5MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-224_imp port1 port2 PARAMS: Cpar=7.65pF Ind=220uH
X1 port1 port2 Model1D PARAMS:
+ R1=1
+ R2=0.001
+ C= {Cpar}
+ K1=0.0126
+ K2=72.3
+ K3= {Ind}
+ K4=3.9
+ K5=0.0000102
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=124210.063
.ends DO3340P-224_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-2MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-334_freq port1 port2 PARAMS: Cpar=11.8pF Ind=330uH
X1 port1 port2 Model1A PARAMS:
+ R1=1.4
+ R2=0.001
+ C= {Cpar}
+ K1=0.0098
+ K2=72.3
+ K3= {Ind}
+ K4=4.65
+ K5=0.0000108
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=108636.99
.ends DO3340P-334_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-2MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-334_imp port1 port2 PARAMS: Cpar=11.25pF Ind=330uH
X1 port1 port2 Model1D PARAMS:
+ R1=1.4
+ R2=0.001
+ C= {Cpar}
+ K1=0.0098
+ K2=72.3
+ K3= {Ind}
+ K4=4.65
+ K5=0.0000108
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=108636.99
.ends DO3340P-334_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-474
* Inductance = 470uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1.7MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-474_freq port1 port2 PARAMS: Cpar=13.3pF Ind=470uH
X1 port1 port2 Model1A PARAMS:
+ R1=0.001
+ R2=0.001
+ C= {Cpar}
+ K1=0.0086
+ K2=113
+ K3= {Ind}
+ K4=4.65
+ K5=0.0000125
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=152747.81
.ends DO3340P-474_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-474
* Inductance = 470uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1.7MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-474_imp port1 port2 PARAMS: Cpar=12.88pF Ind=470uH
X1 port1 port2 Model1D PARAMS:
+ R1=0.001
+ R2=0.001
+ C= {Cpar}
+ K1=0.0086
+ K2=113
+ K3= {Ind}
+ K4=4.65
+ K5=0.0000125
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=152747.81
.ends DO3340P-474_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-684
* Inductance = 680uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1.7MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-684_freq port1 port2 PARAMS: Cpar=11.4pF Ind=680uH
X1 port1 port2 Model1A PARAMS:
+ R1=0.2
+ R2=0.001
+ C= {Cpar}
+ K1=0.0068
+ K2=103
+ K3= {Ind}
+ K4=4.65
+ K5=0.000015
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=136216.998
.ends DO3340P-684_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-684
* Inductance = 680uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1.7MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-684_imp port1 port2 PARAMS: Cpar=11.14pF Ind=680uH
X1 port1 port2 Model1D PARAMS:
+ R1=0.2
+ R2=0.001
+ C= {Cpar}
+ K1=0.0068
+ K2=103
+ K3= {Ind}
+ K4=4.65
+ K5=0.000015
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=136216.998
.ends DO3340P-684_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-105
* Inductance = 1000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1.2MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3340P-105_freq port1 port2 PARAMS: Cpar=11.8pF Ind=1000uH
X1 port1 port2 Model1A PARAMS:
+ R1=0.2
+ R2=0.001
+ C= {Cpar}
+ K1=0.0017
+ K2=187
+ K3= {Ind}
+ K4=4.65
+ K5=0.000025
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=225910.951
.ends DO3340P-105_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3340P-105
* Inductance = 1000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1.2MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3340P-105_imp port1 port2 PARAMS: Cpar=11.60pF Ind=1000uH
X1 port1 port2 Model1D PARAMS:
+ R1=0.2
+ R2=0.001
+ C= {Cpar}
+ K1=0.0017
+ K2=187
+ K3= {Ind}
+ K4=4.65
+ K5=0.000025
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=225910.951
.ends DO3340P-105_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
